US05635510
70.1 Synthesis of 2-[3-(3,4-dichloro-phenyl)-1-tert-butoxycarbonyl-pyrrolidin-3-yl]-ethanol
3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (10.4 mg, 40 mmol) was combined with di-tert-butyl dicarbonate (8.7 g, 40 mmol) in DMF/ethyl acetate (200 mL/200 mL) and the mixture was allowed to stir at ambient temperature for 18 h. Dilute with ethyl acetate and extract with 1M hydrochloric acid solution, 5% sodium bicarbonate solution, and water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound: Rf =0.57 (silica gel, 10% methanol/dichloromethane).

reactant | 3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 40 mmol, 10.4 mg | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | di-tert-butyl dicarbonate | 40 mmol, 8.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF ethyl acetate | 200 mL | CN(C)C=O.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-(3,4-dichloro-phenyl)-1-tert-butoxycarbonyl-pyrrolidin-3-yl]-ethanol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(=O)OC(C)(C)C)CCO | C17H23Cl2NO3
